US08258130B2
A suspension of NaH (1.9 g, 47 mmol, 60% in mineral oil) in DMF (20 mL) at 0° C. is treated with 2-cyclopropyl-5-fluoro-1H-indole (550 mg, 3.14 mmol) and stirred at 0° C. for 1 h. The mixture is treated with HOSA (1.8 g, 15.7 mmol) portion wise and warmed to rt over 2 h. The mixture is then poured over ice, filtered through a pad of Celite, and extracted with EtOAc (3×50 mL). The combined organic layer is dried (Na2SO4), filtered and concentrated in vacuo. The residue is purified by silica gel chromatography eluting with 5%-35% EtOAc in heptane to afford 2-cyclopropyl-5-fluoro-indol-1-ylamine (420 mg, 70%). MS: 191 (M+H); 1H NMR (300 MHz, CDCl3): δ 7.30 (m, 1H), 7.11 (m, 1H), 6.92 (m, 1H), 5.90 (s, 1H), 4.57 (s, NH2, 2H), 2.07 (m, 1H), 1.02 (m, 2H), 0.75 (m, 2H).

reactant | NaH | 47 mmol, 1.9 g | [H-].[Na+]
reactant | 2-cyclopropyl-5-fluoro-1H-indole | 3.14 mmol, 550 mg | C1(CC1)C=1NC2=CC=C(C=C2C1)F | C11H10FN
reactant | DMF | 20 mL | CN(C)C=O | C3H7NO
product | 2-cyclopropyl-5-fluoro-indol-1-ylamine | 420 mg, 70% | C1(CC1)C=1N(C2=CC=C(C=C2C1)F)N | C11H11FN2
